** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_tb/Gilbert_cell_hierarchal_with_pads_tb.sch
**.subckt Gilbert_cell_hierarchal_with_pads_tb V_LO V_LO_b V_RF V_RF_b V_out
*.ipin V_LO
*.ipin V_LO_b
*.ipin V_RF
*.ipin V_RF_b
*.opin V_out
V_PWR VDD GND 3.3
.save i(v_pwr)
V_LO V_LO GND pulse(0 1.5 0 1p 1p 0.25n 0.5n)
.save i(v_lo)
V_LO_b V_LO_b GND pulse(0 1.5 0 1p 1p 0.25n 0.5n)
.save i(v_lo_b)
V_RF V_RF GND sin( 1 1 1 0 )
.save i(v_rf)
V_RF_b V_RF_b GND sin( 1 1 1 0 0 180 )
.save i(v_rf_b)
I0 net11 GND 10u
x1 V_out_n V_out_p net4 net3 net5 net6 net1 net2 GND Gilbert_cell_hierarchal_mixing_stage
x2 V_out_p V_out_n VDD Gilbert_cell_hierarchal_loading_stage
XR_load_3 net1 net2 VDD pplus_u r_width=0.5e-6 r_length=5e-6 m=1
x3 VDD net7 net8 net9 net10 GND Biasing_network_with_local_mirros
Vmeas net1 net7 0
.save i(vmeas)
Vmeas1 net2 net8 0
.save i(vmeas1)
XIO1 VDD net4 V_LO GND io_secondary_5p0
XIO2 VDD net10 net11 GND io_secondary_5p0
XIO3 VDD net3 V_LO_b GND io_secondary_5p0
XIO4 VDD net5 V_RF GND io_secondary_5p0
XIO5 VDD net6 V_RF_b GND io_secondary_5p0
x_Amplifier VDD V_out V_out_p V_out_n net12 GND 5T-OTA-buffer_no_hierarchy
Vmeas2 net12 net9 0
.save i(vmeas2)
**** begin user architecture code

.include /home/vasil/Downloads/SSCS_PICO_2025/src/design_padring/Chipathon2025_pads/xschem/gf180mcu_fd_io.spice
.include /home/vasil/Downloads/SSCS_PICO_2025/src/design_padring/Chipathon2025_pads/xschem/gf180mcu_fd_io__asig_5p0_extracted.spice
.include /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/design.ngspice
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice typical
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice cap_mim
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice res_typical
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice diode_typical
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice bjt_typical
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice moscap_typical
.lib /usr/local/share/pdk/gf180mcuD/libs.tech/ngspice/sm141064.ngspice mimcap_typical



* let sets vectors to a plot, while set sets a variable, globally accessible in .control
.control

    * Set frequency and amplitude variables to proper values from within the control sequence
    * sine-wave LO
    * set cm_lo = 0.5
    * set freq_lo = 2.50G
    * set amp_lo = 0.5
    * alter @V_LO[sin] = [ $cm_lo $amp_lo $freq_lo 0 ]
    * alter @V_LO_b[sin] = [ $cm_lo $amp_lo $freq_lo 0 0 180 ]

    set freq_lo = 100Meg
    set cm_lo = 1.8
    set amp_lo = 0.4

    set cm_rf  = 1.2
    set freq_rf = 89.3Meg
    * set freq_rf = 10.7Meg
    set amp_rf  = 0.1

    * set the parameters to the voltage sources
    alter @V_LO[sin] = [ $cm_lo $amp_lo $freq_lo 0 ]
    alter @V_LO_b[sin] = [ $cm_lo $amp_lo $freq_lo 0 0 180 ]
    alter @V_RF[sin] = [ $cm_rf $amp_rf $freq_rf 0 ]
    alter @V_RF_b[sin] = [ $cm_rf $amp_rf $freq_rf 0 0 180 ]

    save all

    * operating point
    op
    * show

    write Gilbert_cell_hierarchal_with_pads_sim.raw

    set appendwrite

    * Transient analysis to observe mixing operation
    tran 3p 0.5u
    write Gilbert_cell_hierarchal_with_pads_sim.raw

    * Calculate differential output for conversion gain measurement
    let v_out_diff = v(v_out_p)-v(v_out_n)
    let v_rf_diff = v(v_rf)-v(v_rf_b)
    let v_lo_diff = v(v_lo)-v(v_lo_b)


    * Extract IF component at 100MHz using FFT
    linearize v_out_diff v_rf_diff v_lo_diff v_out
    let time_step = 1e-12
    let sample_freq = 1/time_step
    let npts = length(v_out_diff)
    let freq_res = sample_freq/npts


    fft v_out_diff v_rf_diff v_lo_diff v_out

    * print everything, sanity check
    * set     ; print all available global (?) variables (?)
    * setplot ; print all plots
    * display ; print variables available in current plot

    let freq_res = tran2.freq_res
    let freq_if = abs ( $freq_lo - $freq_rf )

    * Define bandwidth for power integration (10MHz around nominal frequencies).
    *  To improve resolution increase time of tran simulation, reduce time step, in order to reduce FFT resolution
    let bandwidth = 15e6
    let bin_width = floor(bandwidth/freq_res + 0.5)
    print bin_width


    * Find center bins for RF and IF frequencies
    let rf_center_bin = floor( $freq_rf/freq_res + 0.5 )
    let if_center_bin = floor( freq_if/freq_res + 0.5 )
    print freq_if
    print freq_res
    print abs(v_out_diff[if_center_bin])
    print abs(v_out_diff[if_center_bin-1])
    print abs(v_out_diff[if_center_bin+1])



    * Calculate power by summing magnitude squared over the bandwidth
    * RF power integration (±10MHz around freq_rf)
    let rf_power_total = 0
    let i = rf_center_bin - bin_width
    while i <= rf_center_bin + bin_width
        if i>0 & i < length(v_rf_diff)
            let bin_freq = i * freq_res
            * print bin_freq
            * print abs(v_rf_diff[i])
            let rf_power_total = rf_power_total + abs(v_rf_diff[i])^2
        end
        let i = i + 1
    end

    * IF power integration (±10MHz around freq_if)
    let if_power_total = 0
    let j = if_center_bin - bin_width
    while j <= if_center_bin + bin_width
        if j >= 0 & j < length(v_out_diff)
            let bin_freq = j * freq_res
            print bin_freq
            print abs(v_out_diff[j])
            let if_power_total = if_power_total + abs(v_out_diff[j])^2
        end
        let j = j + 1
    end

    print if_power_total
    print rf_power_total

    let conversion_gain_db = 10*log10(if_power_total/rf_power_total)
    print conversion_gain_db

    write Gilbert_cell_hierarchal_with_pads_sim.raw

.endc


**** end user architecture code
**.ends

* expanding   symbol:  /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Gilbert_cell_hierarchal_mixing_stage.sym # of pins=9
** sym_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Gilbert_cell_hierarchal_mixing_stage.sym
** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Gilbert_cell_hierarchal_mixing_stage.sch
.subckt Gilbert_cell_hierarchal_mixing_stage V_out_n V_out_p V_LO V_LO_b V_RF V_RF_b I_bias_pos I_bias_neg VSS
*.ipin V_LO
*.ipin V_LO_b
*.ipin V_RF
*.ipin V_RF_b
*.opin V_out_p
*.opin V_out_n
*.iopin I_bias_neg
*.iopin I_bias_pos
*.iopin VSS
XM_dp_lo_pos V_out_p V_LO rf_diff_pair_pos_input VSS nfet_03v3 L=0.28u W=20u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM_dp_lo_neg V_out_n V_LO_b rf_diff_pair_pos_input VSS nfet_03v3 L=0.28u W=20u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM_dp_lo_b_pos V_out_p V_LO_b rf_diff_pair_neg_input VSS nfet_03v3 L=0.28u W=20u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM_dp_lo_b_neg V_out_n V_LO rf_diff_pair_neg_input VSS nfet_03v3 L=0.28u W=20u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM_rf_pos rf_diff_pair_pos_input V_RF I_bias_pos VSS nfet_03v3 L=0.28u W=10u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM_rf_neg rf_diff_pair_neg_input V_RF_b I_bias_neg VSS nfet_03v3 L=0.28u W=10u nf=5 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u'
+ pd='2*int((nf+1)/2) * (W/nf + 0.18u)' ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Gilbert_cell_hierarchal_loading_stage.sym # of pins=3
** sym_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Gilbert_cell_hierarchal_loading_stage.sym
** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Gilbert_cell_hierarchal_loading_stage.sch
.subckt Gilbert_cell_hierarchal_loading_stage I_in_pos I_in_neg VDD
*.iopin I_in_neg
*.iopin I_in_pos
*.iopin VDD
XR_load_2 I_in_pos VDD VDD ppolyf_u_1k r_width=1e-6 r_length=20e-6 m=1
XR_load_1 I_in_neg VDD VDD ppolyf_u_1k r_width=1e-6 r_length=20e-6 m=1
.ends


* expanding   symbol:  /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Biasing_network_with_local_mirros.sym # of pins=6
** sym_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Biasing_network_with_local_mirros.sym
** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Biasing_network_with_local_mirros.sch
.subckt Biasing_network_with_local_mirros VDD I_out_1 I_out_2 I_out_3 I_BIAS VSS
*.iopin VSS
*.iopin I_BIAS
*.opin I_out_1
*.opin I_out_2
*.opin I_out_3
*.iopin VDD
x_PMOS_mirror VDD net1 I_BIAS Local_mirror_pmos w_ref=2u l_ref=0.4u w_mir=6u l_mir=0.4u
x_NMOS_mirror_1 I_out_1 net1 VSS Local_mirror_nmos l_ref=1u w_ref=1.5u nf_ref=1 l_mir=1u w_mir=7.5u nf_mir=5
x_NMOS_mirror_2 I_out_2 net1 VSS Local_mirror_nmos l_ref=1u w_ref=1.5u nf_ref=1 l_mir=1u w_mir=7.5u nf_mir=5
x_NMOS_mirror_3 I_out_3 net1 VSS Local_mirror_nmos l_ref=1u w_ref=1.5u nf_ref=1 l_mir=1u w_mir=6u nf_mir=4
.ends


* expanding   symbol:
*+  /home/vasil/Downloads/SSCS_PICO_2025/src/design_padring/Chipathon2025_pads/xschem/symbols/io_secondary_5p0/io_secondary_5p0.sym # of pins=4
** sym_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_padring/Chipathon2025_pads/xschem/symbols/io_secondary_5p0/io_secondary_5p0.sym
** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_padring/Chipathon2025_pads/xschem/symbols/io_secondary_5p0/io_secondary_5p0.sch
.subckt io_secondary_5p0 VDD to_gate ASIG5V VSS


*.iopin VSS
*.iopin VDD
*.iopin to_gate
*.iopin ASIG5V
D1 to_gate VDD diode_pd2nw_06v0 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
XR1 to_gate ASIG5V VDD ppolyf_u r_width=16e-6 r_length=4e-6 m=1
D2 VSS to_gate diode_nd2ps_06v0 area='10u * 10u ' pj='2*10u + 2*10u ' m=4
.ends


* expanding   symbol:  /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/5T-OTA-buffer_no_hierarchy.sym # of pins=6
** sym_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/5T-OTA-buffer_no_hierarchy.sym
** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/5T-OTA-buffer_no_hierarchy.sch
.subckt 5T-OTA-buffer_no_hierarchy VDD Vout Vin_plus Vin_minus I_bias VSS
*.ipin VDD
*.ipin Vin_plus
*.ipin Vin_minus
*.opin Vout
*.iopin I_bias
*.ipin VSS
XM3 net1 Vin_plus I_bias VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM4 Vout Vin_minus I_bias VSS nfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM1 net1 net1 VDD VDD pfet_03v3 L=0.28u W=0.56u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM2 Vout net1 VDD VDD pfet_03v3 L=0.28u W=0.28u nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
.ends


* expanding   symbol:  /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Local_mirror_pmos.sym # of pins=3
** sym_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Local_mirror_pmos.sym
** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Local_mirror_pmos.sch
.subckt Local_mirror_pmos VDD I_out I_BIAS   w_ref=0.22u l_ref=0.28u  w_mir=0.22u l_mir=0.28u

*.iopin I_BIAS
*.iopin VDD
*.iopin I_out
XM_ref I_BIAS I_BIAS VDD VDD pfet_03v3 L=l_ref W=w_ref nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XM_mir I_out I_BIAS VDD VDD pfet_03v3 L=l_mir W=w_mir nf=1 ad='int((nf+1)/2) * W/nf * 0.18u' as='int((nf+2)/2) * W/nf * 0.18u' pd='2*int((nf+1)/2) * (W/nf + 0.18u)'
+ ps='2*int((nf+2)/2) * (W/nf + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0 sd=0 m=1
XC1 VDD I_BIAS cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=1
.ends


* expanding   symbol:  /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Local_mirror_nmos.sym # of pins=3
** sym_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Local_mirror_nmos.sym
** sch_path: /home/vasil/Downloads/SSCS_PICO_2025/src/design_xsch/Local_mirror_nmos.sch
.subckt Local_mirror_nmos I_out I_BIAS VSS    l_ref=1u w_ref=1u nf_ref=1 l_mir=1u w_mir=1u nf_mir=1
*.iopin VSS
*.iopin I_out
*.iopin I_BIAS
XM2 I_out I_BIAS VSS VSS nfet_03v3 L=l_mir W=w_mir nf=nf_mir ad='int((nf_mir+1)/2) * W/nf_mir * 0.18u' as='int((nf_mir+2)/2) * W/nf_mir * 0.18u'
+ pd='2*int((nf_mir+1)/2) * (W/nf_mir + 0.18u)' ps='2*int((nf_mir+2)/2) * (W/nf_mir + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0
+ sd=0 m=1
XM6 I_BIAS I_BIAS VSS VSS nfet_03v3 L=l_ref W=w_ref nf=nf_ref ad='int((nf_ref+1)/2) * W/nf_ref * 0.18u' as='int((nf_ref+2)/2) * W/nf_ref * 0.18u'
+ pd='2*int((nf_ref+1)/2) * (W/nf_ref + 0.18u)' ps='2*int((nf_ref+2)/2) * (W/nf_ref + 0.18u)' nrd='0.18u / W' nrs='0.18u / W' sa=0 sb=0
+ sd=0 m=1
XC1 VSS I_BIAS cap_mim_2f0fF c_width=5e-6 c_length=5e-6 m=1
.ends

.GLOBAL VDD
.GLOBAL GND
.end
